US08541421B2
2-(Ethylamino)-4,5-dimethylthiophene-3-carbonitrile
To a mixture of 2-(benzylamino)-4,5-dimethylthiophene-3-carbonitrile (302 mg, 2.0 mmol), potassium carbonate (276 mg, 2.0 mmol), and a catalytic amount of potassium iodide in acetonitrile (1 mL) in a 20 mL microwave vial was added ethyl iodide (310 mg, 2.0 mmol). The reaction vial was placed in a microwave reactor for 15 minutes at 165° C. The reaction mixture was dissolved in ethyl acetate and washed with water and brine. The ethyl acetate portion was dried over sodium sulfate and solvent was evaporated under reduced pressure, and the product was purified by prep HPLC using acetonitrile/water as solvent. MS 181 (MH+).

reactant | 2-(benzylamino)-4,5-dimethylthiophene-3-carbonitrile | 2.0 mmol, 302 mg | C(C1=CC=CC=C1)NC=1SC(=C(C1C#N)C)C | C14H14N2S
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | ethyl iodide | 2.0 mmol, 310 mg | C(C)I | C2H5I
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(Ethylamino)-4,5-dimethylthiophene-3-carbonitrile | C(C)NC=1SC(=C(C1C#N)C)C | C9H12N2S
